data/mechanisms/records/IMS8-EQ8.45c.json
{"mechanism_id": "IMS8-EQ8.45c", "species": [{"species_id": "neopentyl_alcohol_radical_cation", "mapped_smiles": "[CH3:4][C:1]([CH3:5])([CH3:6])[CH2:2][OH+:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tert_butyl_cation", "mapped_smiles": "[C+:1]([CH3:4])([CH3:5])[CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydroxymethyl_radical", "mapped_smiles": "[CH2:2][OH:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["neopentyl_alcohol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["tert_butyl_cation", "hydroxymethyl_radical"]}], "steps": [{"step_id": "step_sigma_dissociation", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_dissociation", "support_type": "textbook_proposed", "locator": {"page": 175, "equation": "8.45", "figure": null, "panel": null, "section": "8.8"}, "confidence": 0.8, "curator_note": "Path labeled 'sigma' (charge-migration sigma dissociation) of Eq 8.45. Book draws 0 electron-pushing arcs: the scheme shows only the labeled 'sigma' reaction arrow from the molecular ion to the products, no fishhooks. Both moves are implicit, required for electron balance (not drawn on the page): the C1-C2 sigma bond cleaves, move <1> routes one electron to C2 (giving the .CH2OH radical) and move <2> routes the other electron to O3 (map 3), where it pairs with the oxygen odd electron to neutralize O(+.) to a normal -OH; C1 retains neither bonding electron and becomes the tert-butyl cation. The O3 radical count therefore drops by 1 while its non-bonding population rises (soft lone-pair note expected). Move <2> is a through-bond charge-migration arrow (source bond C1-C2 is not incident to O3); it is the honest balanced representation of the charge migrating from O to C1. Precursor n-ionized at O per the book's (CH3)3C-CH2-O(+.)H drawing. Charge is retained on the tert-butyl fragment per Stevenson's rule (page: IE 6.7 eV for (CH3)3C. vs 7.6 eV for .CH2OH), making (CH3)3C+ the base peak. m/z 57.0699 is the curator-computed monoisotopic value; the page prints the 100% abundance but no m/z."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 88.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_57", "species_id": "tert_butyl_cation", "step_id": "step_sigma_dissociation", "observed_mz": 57.0699, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
